US07511066B2
F. 4-[4-tert-Butyl-2-(1-Boc-piperidin-4-yloxy)benzoyl-amino]pyridine-3-carboxylic acid
To a stirring solution of methyl 4-[4-tert-butyl-2-(1-Boc-piperidin-4-yloxy)benzoylamino]pyridine-3-carboxylate (0.192 g, 0.376 mmol) in tetrahydrofuran (4 mL) was added water (1 mL), followed by a 1 M solution of LiOH in water (0.4 mL, 0.4 mmol). After stirring overnight, the solution was partially concentrated in vacuo and then diluted with water and washed with diethyl ether. The pH of the aq phase was then adjusted to 4-5 by the addition of citric acid. The resulting precipitate was dried in vacuo to give the title compound (0.15 g, 80%) as a white solid.

reactant | methyl 4-[4-tert-butyl-2-(1-Boc-piperidin-4-yloxy)benzoylamino]pyridine-3-carboxylate | 0.376 mmol, 0.192 g | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C=NC=C2)C(=O)OC)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C28H37N3O6
reactant | water | 1 mL | O | H2O
reactant | LiOH | [Li+].[OH-]
reactant | water | 0.4 mmol, 0.4 mL | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 4-[4-tert-Butyl-2-(1-Boc-piperidin-4-yloxy)benzoyl-amino]pyridine-3-carboxylic acid | 0.15 g, 80% | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C=NC=C2)C(=O)O)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C27H35N3O6
